Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"speaking jibberish"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ year old woman with a history of HTN who
has had episodes of "garbled and nonsense" words over the past 2
weeks. Over the first week of her symptoms, she had the episodes
twice in that week, and over the next week, she had episodes
almost daily. The episodes start as word finding difficulty,
where Ms. ___ uses gestures more frequently, and then she
speaks "gibberish" and sounds as if she is "speaking another
language," per her daughter, with whom she lives.  
 Today, Ms. ___ was sitting on the couch with her son-in-law
when she closed her eyes and then slumped over to the right side
and began speaking gibberish, after which Ms. ___ son-in-law
called ___. The episode self-resolved, but it is unclear how 
long
the episode lasted, but it was less than 30 minutes.  
 Ms. ___ has a history of HTN, but self-discontinued 
nifedipine
a few months ago. She was prescribed 10mg three times daily, but
felt dizzy, so decreased the pill to once daily, and then
completely discontinued the pill without consultation with a
doctor. She does not like taking medicine.  
 
 On neuro ROS, the pt endorses headaches frequently over the 
past
few weeks, but no loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.  
 
 On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath. Denies chest pain or tightness,
palpitations. Denies nausea, vomiting, diarrhea, constipation or
abdominal pain. No recent change in bowel or bladder habits. No
dysuria. Denies arthralgias or myalgias. Denies rash.  
 
Past Medical History:
 HYPERTENSION  
 REFUSES PAP, MAMMOGRAM,COLONOSCOPY  
 CHOLECYSTECTOMY ___ B&W  
 CHRONIC DISEASE MANAGEMENT  
 HYPERGLYCEMIA  
 VITAMIN D DEFICIENCY
 
Social History:
___
Family History:
Ms. ___ father had a stroke at age ___.
 
Physical Exam:
ADMISSION EXAM:
Vitals: T: ___ P: 91 R: 18 BP: 219/92 SaO2: 99% on room air.  
 General: Awake, cooperative, NAD.  
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx  
 Neck: Supple. No nuchal rigidity  
 Pulmonary: Normal work of breathing  
 Cardiac: warm, well-perfused  
 Abdomen: soft, non-distended  
 Extremities: No ___ edema.  
 Skin: no rashes or lesions noted.  
 
 Neurologic:  
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Unable to say ___ backwards. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Pt was able to name both high
and low frequency objects, except for feather. Able to read
without difficulty. Speech was not dysarthric. Able to follow
both midline and appendicular commands. Pt was NOT able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.  
 -Cranial Nerves:  
 II, III, IV, VI: PERRL 2 to 1mm and sluggish, with evidence of
cataract bilaterally. EOMI with end-gaze nystagmus bilaterally.
Normal saccades. VFF to confrontation.  
 V: Facial sensation intact to light touch.  
 VII: No facial droop, facial musculature symmetric.  
 VIII: Hearing intact to finger-rub bilaterally.  
 IX, X: Palate elevates symmetrically.  
 XI: ___ strength in trapezii bilaterally.  
 XII: Tongue protrudes in midline with good excursions.  
 -Motor: Left arm testing restricted ___ shoulder pain.  
 Normal bulk, tone throughout. No pronator drift bilaterally.  
 No adventitious movements, such as tremor, noted. No asterixis
noted.  
 Delt Bic Tri WrE FE IP Quad Ham TA ___  
 L ___ 5 5  
 R ___ 5 5  
 -Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

 -DTRs:  
 Bi Tri ___ Pat Ach  
 L ___ 2 1  
 R ___ 2 1  
 Plantar response was flexor bilaterally.  
 -Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally, with some
shakiness, though, with left arm ___ pain.  
 -Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

====================
DISCHARGE EXAM:

 General: Awake, cooperative, NAD.  
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx  
 Neck: Supple. No nuchal rigidity  
 Pulmonary: Normal work of breathing  
 Cardiac: warm, well-perfused  
 Abdomen: soft, non-distended  
 Extremities: No ___ edema.  
 Skin: no rashes or lesions noted.  
 
 Neurologic:  
 -Mental Status: Alert, attentive. Language is
fluent in ___.

 -Cranial Nerves:  
 II, III, IV, VI: PERRL, with cataract bilaterally. EOMI.
 VII: No facial droop, facial musculature symmetric.  
 VIII: Hearing intact to speech
 IX, X: Palate elevates symmetrically.  
 XII: Tongue protrudes in midline with good excursions.  
 -Motor: L delt restricted due to pain. Otherwise ___ in all
muscle groups. 
 -Reflex: +snout. No palmomental reflex. Toes downgoing 
bilaterally
 -Coordination: No dysmetria
 -Gait: defer
 
Pertinent Results:
___ 07:39AM BLOOD WBC-8.8 RBC-4.68 Hgb-13.9 Hct-42.4 MCV-91 
MCH-29.7 MCHC-32.8 RDW-14.8 RDWSD-48.9* Plt ___
___ 07:39AM BLOOD Glucose-100 UreaN-14 Creat-0.6 Na-143 
K-4.1 Cl-107 HCO3-25 AnGap-11
___ 08:03AM BLOOD ALT-15 AST-16 LD(LDH)-169 CK(CPK)-87 
AlkPhos-81 TotBili-0.7
___ 08:03AM BLOOD Triglyc-84 HDL-58 CHOL/HD-3.0 LDLcalc-98
___ 08:03AM BLOOD CRP-5.7*
___ 08:03AM BLOOD TSH-1.7

MRI ___:
1. No evidence for acute intracranial hemorrhage or infarction. 
2. Probable chronic punctate microhemorrhage within the 
posterior right 
thalamus. 
3. Chronic areas of infarction involving the left caudate body. 
4. Background global parenchymal volume loss and evidence of 
chronic small 
vessel ischemic disease. 
  
Echo ___:
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild to 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>70%). No masses or thrombi are seen in 
the left ventricle. Doppler parameters are most consistent with 
Grade I (mild) left ventricular diastolic dysfunction. There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. There is borderline 
pulmonary artery systolic hypertension. There is an anterior 
space which most likely represents a prominent fat pad. 

 IMPRESSION: Mild to moderate left ventricular hypertrophy with 
normal cavity size and biventricular systolic function. No 
inctracardiac masses. No pathologic valvular flow.  

CTA ___:
1. Mild multifocal atherosclerosis involving the intracranial 
vasculature, as above.  No high-grade stenosis, occlusion, or 
aneurysm greater than 3mm. 
2. Approximately 50% stenosis of the left internal carotid 
artery by NASCET criteria, secondary to noncalcified 
atherosclerotic disease. 
For description of the intracranial parenchymal findings please 
see the 
separate CT head examination performed without contrast on the 
same day. 

CT Head ___:
1. No evidence of large territorial infarction or intracranial 
hemorrhage. 
2. Few chronic lacunar infarcts and extensive changes compatible 
with chronic microangiopathy. 

 
Brief Hospital Course:
___ year old ___ female with history of 
hypertension, not on anti-hypertensives x 3 months, who has had 
2 weeks of intermittent episodes of fluent aphasia, described as 
"speaking gibberish". No acute stroke was found, and her 
symptoms were attributed to transient ischemic attack. She has 
some signs of general cognitive decline, and there is evidence 
of chronic microangiopathy along with old lacunar infarcts with 
global brain volume loss. Etiology is likely hypertensive 
microangiopathy.

# Neuro: MRI showed chronic infarction of the L caudate. There 
are punctate microhemorrhages noted, with global parenchymal 
volume loss. CTA showed 50% stenosis of the L carotid artery. 
Patient had additional transient episodes of speaking 
"jibberish" and also positive visual symptoms during admission 
without exam changes. These episodes were attributed to TIA. She 
was started on aspirin and atorvastatin for stroke protection 
(LDL 98). The numerous small strokes are concerning for possible 
diagnosis of CADASIL, and workup can be continued with neurology 
as an outpatient.

# Hypertension: Patient was extremely hypertensive with SBP 220 
upon presentation. She was given hydralazine PRN to maintain SBP 
<180. She likely has had chronic uncontrolled hypertension for a 
long time, as she does not like to go to routine medical visits. 
She had recently self discontinued nifedipine which had been 
started for blood pressure control prior to admission. She was 
started on captopril during admission with SBP in the 140s-160s, 
and was transitioned to Lisinopril for discharge. She will 
require further titration of antihypertensives as an outpatient.

=============

Transitional issues:
- Requires blood pressure management and titration of 
antihypertensives
- Patient requires follow up with Neurology in ___ months, will 
consider testing for gene mutation for CADASIL

=============
 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 98) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were hospitalized due to symptoms of visual changes and 
problems speaking, and diagnosed with a TRANSIENT ISCHEMIC 
ATTACK (TIA), or temporary obstruction of blood flow. We found 
that your blood pressure is very high, and see that there are 
multiple small old strokes in your brain. This is likely the 
cause of your TIA. 

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 hypertension
 hypercholesterolemia
 unhealthy diet

 We are changing your medications as follows:  
  Please take aspirin and atorvastatin to reduce your stroke 
risk.
  Please take Lisinopril to reduce your blood pressure.

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___